US07642361B2
4,4,5,5-Tetramethyl-2-[4-(3-methylsulfanyl-thiophen-2-yl)-phenyl]-[1,3,2]dioxaborolane
Combine 3-methylsulfanyl-2-phenyl-thiophene (12 g, 42 mmol), bis(pinacolato)diboron (11.8 g, 46.2 mmol), potassium acetate (13.6 g, 138.9 mmol), PdCl2(dppf) (3.42 g, 4.2 mmol) in anhydrous DMSO (150 ml) and stir at 80° C. for 12 hours. Cool the reaction mixture to room temperature, dilute with ethyl acetate (200 ml), and wash with water (3×100 ml). Separate the organic layer and dry with magnesium sulphate. To this solution, add 10 g of silica and evaporate the solvent. Place the resulting mixture in a sintered glass funnel and elute with a 10:1 mixture of Hexane/EtOAc. The catalyst remains in the silica. Evaporate the solvent and obtain the solid which was disgregated with hexane (to eliminate most of the bis(pinacolato)diboron which is the major impurity) yielding 6 g (50%) of the title compound.

reactant | 3-methylsulfanyl-2-phenyl-thiophene | 42 mmol, 12 g | CSC1=C(SC=C1)C1=CC=CC=C1 | C11H10S2
reactant | bis(pinacolato)diboron | 46.2 mmol, 11.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 138.9 mmol, 13.6 g | C(C)(=O)[O-].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 4.2 mmol, 3.42 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4,4,5,5-Tetramethyl-2-[4-(3-methylsulfanyl-thiophen-2-yl)-phenyl]-[1,3,2]dioxaborolane | 6 g, 50% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1SC=CC1SC)C | C17H21BO2S2
